US07851473B2
(2) 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-pyrazin-2-ylpiperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl pyrazin-2-ylcarbamate (150 mg, 0.556 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (137 mg, 0.556 mmol), diisopropylethylamine (0.0968 ml, 0.556 mmol) and dimethylsulfoxide (3 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water and a solid was collected by filtration and washed with water. This was recrystallized from a mixed solvent of tetrahydrofuran and ethyl acetate to obtain the desired product (74.3 mg, 36.4%) as a solid.

reactant | 2,2,2-trichloroethyl pyrazin-2-ylcarbamate | 0.556 mmol, 150 mg | N1=C(C=NC=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H6Cl3N3O2
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.556 mmol, 137 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.556 mmol, 0.0968 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-pyrazin-2-ylpiperazine-1-carboxamide | 74.3 mg, 36.4% | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC1=NC=CN=C1 | C17H17N7OS
